US05559117
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (2.2 g, 10 mmol), K2CO3 (3 g), 1-[4-(3-bromopropoxy)-3-methoxyphenyl]pentanone (3.7 g, 11.3 mmol acetonitrile (140 ml) was heated at reflux for 4 hours. At the end of the reaction, the mixture was cooled and filtered. The filtrate was concentrated to an oil. Purification was performed by flash chromatography over a silica gel column (SiO2, 55 g; eluted with 1% methanol in dichloromethane, 600 ml; 3% methanol: 97% dichloromethane, 400 ml). The fractions containing pure product were pooled and concentrated to a solid (4.3 g, 91%). Recrystallization from ethanol (10 ml) gave a powdery solid of 1-[4-[3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-3-methoxyphenyl]-pentanone (3.22 g), m.p.=79°-80° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 10 mmol, 2.2 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | 3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-[4-(3-bromopropoxy)-3-methoxyphenyl]pentanone | BrCCCOC1=C(C=C(C=C1)CC(CCC)=O)OC | C15H21BrO3
reactant | acetonitrile | 11.3 mmol, 140 ml, 3.7 g | C(C)#N | C2H3N
product | 1-[4-[3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-3-methoxyphenyl]-pentanone | 3.22 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC2=C(C=C(C=C2)CC(CCC)=O)OC)C=C1 | C27H33FN2O4
